US07632838B2
4-(2-naphthylsulfonyl)-1-[2-(trifluoromethyl)phenyl]piperidine
A 5 mL microwave reaction vial was charged with 4-(2-naphthylsulfonyl)piperidine (82 mg, 0.30 mmol), 2-bromobenzotrifluoride (67 mg, 0.30 mmol), NaOt-Bu (40 mg, 0.42 mmol), Pd2(dba)3 (26 mg, 0.025 mmol), racemic BINAP (31 mg, 0.05 mmol), and dioxane (1.5 mL). The mixture was degassed with N2, capped, and heated in a 90° C. oil bath for 16 h. The mixture was diluted with CH2Cl2 (10 mL) and filtered through a plug of SiO2. The organic phase was concentrated and purified by SiO2 chromatography (15 to 30% EtOAc-hex) to afford the title compound (63 mg), a yellow oil, in 50% yield.

reactant | 4-(2-naphthylsulfonyl)piperidine | 0.30 mmol, 82 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
reactant | 2-bromobenzotrifluoride | 0.30 mmol, 67 mg | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | NaOt-Bu | 0.42 mmol, 40 mg | CC(C)(C)[O-].[Na+]
reactant | BINAP | 0.05 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | Pd2(dba)3 | 0.025 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(2-naphthylsulfonyl)-1-[2-(trifluoromethyl)phenyl]piperidine | 63 mg, 50% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCN(CC1)C1=C(C=CC=C1)C(F)(F)F | C22H20F3NO2S
